US09428502B2
Compound 50.1. Methyl 4-chloro-3-iodo-benzoate
4-Chloro-3-iodo-benzoic acid (5.31 g, 18.8 mmol) was dissolved in methanol (50 mL) and concentrated sulfuric acid (3 mL) was carefully added. The solution was stirred at 80° C. for 4 hours, then cooled to room temperature and the volatile organics were removed under reduced pressure. The residue was partitioned between EtOAc (50 mL) and water (50 mL) and the organic layer was washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2; 0-10% EtOAc in hexanes) to yield 5.32 g (95%) of the title compound as an oil. 1H NMR (400 MHz, Chloroform-d) δ 8.54 (d, J=2.0 Hz, 1H), 7.96 (dd, J=8.4, 2.0 Hz, 1H), 7.53 (d, J=8.4 Hz, 1H), 3.94 (s, 3H).

reactant | 4-Chloro-3-iodo-benzoic acid | 18.8 mmol, 5.31 g | ClC1=C(C=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | Methyl 4-chloro-3-iodo-benzoate | 5.32 g, 95% | ClC1=C(C=C(C(=O)OC)C=C1)I | C8H6ClIO2
